US07598422B2
Di-tert-butyl 1-[(1S,2S)-3,3,3-trifluoro-1-(hydroxymethyl)-2-methylpropyl]hydrazine-1,2-dicarboxylate (214.4 g, 0.576 mole) was dissolved in 640 mL THF. The solution was warmed to 30° C. and concentrated HCl (240 mL, 2.87 moles, 5 equivalents) was added drop wise over 20 minutes at 30-50° C. The solution was maintained at 50° C. for 2 hours and the THF was removed with aspirator vacuum at 30-60° C. The HCl solution was washed twice with 300 mL TBME. The aqueous phase was then stripped to a white solid using aspirator and vacuum pump at 50-60° C. The resulting solid was dried at 50° C. under vacuum at <10 mm Hg giving 108.3 g, 90% yield of (2S,3S)-4,4,4-Trifluoro-2-hydrazino-3-methyl-butan-1-ol HCl.

reactant | Di-tert-butyl 1-[(1S,2S)-3,3,3-trifluoro-1-(hydroxymethyl)-2-methylpropyl]hydrazine-1,2-dicarboxylate | 0.576 mole, 214.4 g | FC([C@H]([C@@H](CO)N(NC(=O)OC(C)(C)C)C(=O)OC(C)(C)C)C)(F)F | C15H27F3N2O5
reactant | HCl | 2.87 moles, 240 mL, 5 equivalents | Cl | ClH
solvent | THF | 640 mL | C1CCOC1 | C4H8O
product | (2S,3S)-4,4,4-Trifluoro-2-hydrazino-3-methyl-butan-1-ol HCl | 108.3 g, 90% yield | Cl.FC([C@H]([C@@H](CO)NN)C)(F)F | InChI=1S/C5H11F3N2O.ClH/c1-3(5(6,7)8)4(2-11)10-9;/h3-4,10-11H,2,9H2,1H3;1H/t3-,4+;/m0./s1
